US04383945
A mixture of 4-nitrobenzyl 2-diazo-4-{(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidine-2-yl}-3-oxobutanoate (58.0 mg) and rhodium (II) acetate (0.1 mg) in benzene (3.4 ml) was refluxed for 30 minutes. After cooling to ambient temperature, the mixture was filtered with a diatomaceous earth and evaporated to give 4-nitrobenzyl(2R,5R,6S)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-1-azabicyclo[3.2.0]heptane-2-carboxylate (47.8 mg) as an amorphous solid.

reactant | 4-nitrobenzyl 2-diazo-4-{(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidine-2-yl}-3-oxobutanoate | 58.0 mg | [N+](=[N-])=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C[C@H]1NC([C@@H]1C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O)=O | C25H23N5O11
solvent | benzene | 3.4 ml | C1=CC=CC=C1 | C6H6
catalyst | rhodium (II) acetate | 0.1 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | 4-nitrobenzyl(2R,5R,6S)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-1-azabicyclo[3.2.0]heptane-2-carboxylate | 47.8 mg | O=C1[C@@H](N2C([C@@H]([C@H]2C1)C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H23N3O11
